US04912104
1-Butyl-5-methyl-3-propyl-5,6,7,8-tetrahydropyrimido[2',1': 5,1]pyrazolo[3,4-d]pyrimidine-2,4(1H,3H)-dione
To a stirred solution of 7-butyl-2-(3-chloropropyl)-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione(2.0 g) in DMF(30 ml) was added sodium hydride(60% oil, 0.67 g), in portions under ice-cooling. The mixture was stirred at room temperature for further 5 hours. The reaction mixture was concentrated to dryness and the concentrate was added to ice-water. The mixture was stirred for a while, whereupon crystals precipitated out. The crystals were collected by filtration and recrystallized from isopropyl ether to afford colorless crystals(1.55 g, 90%), m.p. 94°-98° C.

reactant | 7-butyl-2-(3-chloropropyl)-3-methylamino-5-propyl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | 2.0 g | C(CCC)N1C(N(C(C=2C1=NN(C2NC)CCCCl)=O)CCC)=O | C16H26ClN5O2
reactant | sodium hydride | 0.67 g | [H-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-Butyl-5-methyl-3-propyl-5,6,7,8-tetrahydropyrimido[2',1': 5,1]pyrazolo[3,4-d]pyrimidine-2,4(1H,3H)-dione | 1.55 g, 90% | C(CCC)N1C(N(C(C=2C1=NN1C2N(CCC1)C)=O)CCC)=O | C16H25N5O2
